US08207210B2
4.4 250 mg of tert-butyl 3-tert-butoxycarbonylamino-6-ethoxy-7-fluoro-5-[3-(3-fluorobenzyl)ureido]indazole-1-carboxylate (4.5 mmol) are stirred for 16 hours with 5 ml of HCl/dioxane (4 M). The batch is concentrated and evaporated three times with 20 ml of toluene each time in a rotary evaporator. The residue is purified by column chromatography on silica gel (eluent:ethyl acetate:methanol 9:1). Evaporation of the corresponding fractions gives 50 mg of 1-(3-amino-6-ethoxy-7-fluoro-1H-indazol-5-yl)-3-(3-fluorobenzyl)urea (“A14”) (31%), MS-FAB (M+H+)=362.

reactant | tert-butyl 3-tert-butoxycarbonylamino-6-ethoxy-7-fluoro-5-[3-(3-fluorobenzyl)ureido]indazole-1-carboxylate | 4.5 mmol | C(C)(C)(C)OC(=O)NC1=NN(C2=C(C(=C(C=C12)NC(=O)NCC1=CC(=CC=C1)F)OCC)F)C(=O)OC(C)(C)C | C27H33F2N5O6
reactant | HCl dioxane | 4 M, 5 ml | Cl.O1CCOCC1
product | 1-(3-amino-6-ethoxy-7-fluoro-1H-indazol-5-yl)-3-(3-fluorobenzyl)urea | 50 mg, 31% | NC1=NNC2=C(C(=C(C=C12)NC(=O)NCC1=CC(=CC=C1)F)OCC)F | C17H17F2N5O2
